US07432289B2
N-(4′-{[(Cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)isoxazole-5-carboxamide was prepared from 5′-amino-N-(cyclopropylmethyl)-2′-methyl-1,1′-biphenyl-4- carboxamide and isoxazole-5-carboxylic acid using method D. NMR; δH [2H6] —DMSO 10.75, (1H, s), 8.81,(1H, d), 8.62,(1H, t), 7.93,(2H, d), 7.70,(1H, dd), 7.66,(1H, d), 7.44,(2H, d), 7.32,(1H, d), 7.24,(1H, d), 3.16,(2H, t), 2.21,(3H, s), 1.04,(1H, m), 0.43,(2H, m), 0.24,(2H, m). LCMS: retention time 3.17 min, MH+376.

reactant | 5′-amino-N-(cyclopropylmethyl)-2′-methyl-1,1′-biphenyl-4- carboxamide | NC=1C=CC(=C(C1)C1=CC=C(C=C1)C(=O)NCC1CC1)C | C18H20N2O
reactant | isoxazole-5-carboxylic acid | O1N=CC=C1C(=O)O | C4H3NO3
product | N-(4′-{[(Cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)isoxazole-5-carboxamide | C1(CC1)CNC(=O)C1=CC=C(C=C1)C1=CC(=CC=C1C)NC(=O)C1=CC=NO1 | C22H21N3O3
